US06159904
4 Milliliters of acetic acid and 2.12 g (18.71 mmol) of a 30 wt % hydrogen peroxide aqueous solution were added to 2.20 g (7.79 mmol) of 6-acetyl-8-chloro-3,3,5-trimethylthiochroman-4-one in a 100-ml round-bottomed flask, and the mixture was reached at 80° C. for 2.5 hours. The reaction mixture was diluted with about 50 ml of water, and a sodium hydrogensulfite aqueous solution was added to decompose excess hydrogen peroxide. Then, the reaction mixture was extracted with ethyl acetate. An organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution and with a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to give 2.16 g (yield 88%) of 6-acetyl-8-chloro-3,3,5-trimethylthiochroman-4-one-1,1-dioxide.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | 6-acetyl-8-chloro-3,3,5-trimethylthiochroman-4-one | 7.79 mmol, 2.20 g | C(C)(=O)C=1C(=C2C(C(CSC2=C(C1)Cl)(C)C)=O)C | C14H15ClO2S
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | water | about 50 ml | O | H2O
product | 6-acetyl-8-chloro-3,3,5-trimethylthiochroman-4-one-1,1-dioxide | 2.16 g, yield 88% | C(C)(=O)C=1C(=C2C(C(CS(C2=C(C1)Cl)(=O)=O)(C)C)=O)C | C14H15ClO4S
